US04200641
A mixture of 1.55 parts of acetic acid anhydride, 3 parts of 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one and 22.5 parts of methylbenzene is stirred and refluxed overnight. Water is added to the reaction mixture and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-acetyl-3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 124.4° C.

reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | C27H30N4O
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
solvent | Water | O | H2O
product | 1-acetyl-3-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | C(C)(=O)N1C(N(C2=C1C=CC=C2)CCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)=O | C29H32N4O2
